US05639778
Step A: N-Indan-2-yl-N-propyl-benzamide (39, Chart D).
To a stirred solution of Indan-2-yl-propyl-amine (20.0 g, 114 mmol) in dichloro methane (200 mL) triethyl amine (17.4 mL, 125 mmol) was added. To this solution was then dropwise added benzoyl chloride (17.6 g, 125 mmol), followed by stirring at ambient temperature for 2 hours. The reaction was finally quenched by addition of dilute hydrochloric acid (50 mL, 10% HCl). The organic layer was separated, washed with water and dried over magnesium sulfate. Evaporation of the solvent yielded 31.5 g (99%) of the title compound as a dark oil.:

reactant | Indan-2-yl-propyl-amine | 114 mmol, 20.0 g | C1C(CC2=CC=CC=C12)NCCC | C12H17N
reactant | dichloro methane | 125 mmol, 200 mL | ClCCl | CH2Cl2
reactant | benzoyl chloride | 125 mmol, 17.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-Indan-2-yl-N-propyl-benzamide | 31.5 g, 99% | C1C(CC2=CC=CC=C12)N(C(C1=CC=CC=C1)=O)CCC | C19H21NO
